US08048887B2
2-(4-Fluorophenyl)-5-(1H-indol-4-yl)-N-methylbenzofuran-3-carboxamide
Cesium carbonate (176 mg, 0.539 mmol) was added to Pd(Ph3P)4 (20.77 mg, 0.018 mmol), 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate (150 mg, 0.359 mmol), 1H-indol-4-ylboronic acid (87 mg, 0.539 mmol). Dioxane (3 mL) and water (600 μL) was added at rt. The reaction was degassed 3× and then heated to 90° C. overnight. It was allowed to cool. The mixture was diluted with ethyl acetate and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and purified on silica gel (BIOTAGE®, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the titled compound (66 mg, 46%). 1H NMR (500 MHz, DMSO-d6) δ ppm 11.28 (1H, br. s.), 8.48-8.57 (1H, m), 7.98-8.07 (2H, m), 7.86 (1H, br. s.), 7.79 (1H, d, J=8.24 Hz), 7.69 (1H, d, J=7.93 Hz), 7.37-7.47 (4H, m), 7.21 (1H, t, J=7.63 Hz), 7.14 (1H, d, J=7.02 Hz), 6.60 (1H, br. s.), 2.84 (3H, d, J=4.27 Hz). LC-MS retention time: 1.53 min; m/z (MH+): 385. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 μm, Rt=13.46 min, purity=99%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 μm, Rt=12.27 min, purity=97%.

reactant | Cesium carbonate | 0.539 mmol, 176 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate | 0.359 mmol, 150 mg | FC(S(=O)(=O)OC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)(F)F | C17H11F4NO5S
reactant | 1H-indol-4-ylboronic acid | 0.539 mmol, 87 mg | N1C=CC2=C(C=CC=C12)B(O)O | C8H8BNO2
reactant | Dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.018 mmol, 20.77 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 600 μL | O | H2O
product | 2-(4-Fluorophenyl)-5-(1H-indol-4-yl)-N-methylbenzofuran-3-carboxamide | 66 mg, 46% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C1C=CNC1=CC=C2 | C24H17FN2O2
